US04983630
4'-Chloro-2-(2,2-difluorocyclopropyl)acetanilide
15.3 g (120 mmol) 4-Chloroaniline, 18.4 ml (132 mmol) triethylamine and 50 mg dimethylaminopyridine dissolved in 150 ml tetrahydrofuran was treated, under ice-cooling, with 18.6 g (120 mmol) 2-(2,2-difluorocyclopropyl)acetyl chloride. The mixture was stirred for 2 hours at room temperature and poured into 1000 ml water. The precipitated crystals were separated, washed with a small amount of hydrochloric acid and dried in vacuo (200 mbar). A sample was analysed by thin layer chromatography (dichloromethane:methanol=95:5) (Rf=0.62).

reactant | 4-Chloroaniline | 120 mmol, 15.3 g | ClC1=CC=C(N)C=C1 | C6H6ClN
reactant | triethylamine | 132 mmol, 18.4 ml | C(C)N(CC)CC | C6H15N
reactant | dimethylaminopyridine | 50 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | 2-(2,2-difluorocyclopropyl)acetyl chloride | 120 mmol, 18.6 g | FC1(C(C1)CC(=O)Cl)F | C5H5ClF2O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | water | 1000 ml | O | H2O
product | 4'-Chloro-2-(2,2-difluorocyclopropyl)acetanilide | ClC1=CC=C(NC(CC2C(C2)(F)F)=O)C=C1 | C11H10ClF2NO
